US06028195
(e) 1-[(2-Hydroxy-4,5-dimethylphenyl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine
Phenyl N-[2-(t-butyldimethylsilyloxy)-4,5-dimethylphenyl]carbamate (0.17 g, 0.5 mmole) and 1-(3,5-dimethoxyphenyl)piperazine(0.13 g, 0.6 mmole) were dissolved in tetrahydrofuran(10 ml), and thereto with stirring DBU(0.09 g, 0.6 mmole) was added, and the resulting mixture was stirred for 2 hours, concentrated and chromatographed to obtain the titled compound.

reactant | Phenyl N-[2-(t-butyldimethylsilyloxy)-4,5-dimethylphenyl]carbamate | 0.5 mmole, 0.17 g | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C(=C1)C)C)NC(OC1=CC=CC=C1)=O | C21H29NO3Si
reactant | 1-(3,5-dimethoxyphenyl)piperazine | 0.6 mmole, 0.13 g | COC=1C=C(C=C(C1)OC)N1CCNCC1 | C12H18N2O2
reactant | DBU | 0.6 mmole, 0.09 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-[(2-Hydroxy-4,5-dimethylphenyl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | yield: 87% | OC1=C(C=C(C(=C1)C)C)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC | C21H27N3O4
